US04636521
N-[[3-[2-(Methylamino)ethyl]-1H-indol-5-yl]methyl]methanesulphonamide
A solution of phenylmethyl[2-[5-[[(methylsulphonyl)amino]methyl]-1H-indol-3-yl]ethyl]carbamate (0.02 g) in dry THF (1 ml) was added to a stirred suspension of lithium aluminium hydride (0.1 g) in THF (2 ml) and the mixture was refluxed under nitrogen for 3 h. The mixture was cooled and excess reagent was decomposed by the addition of 10% water in THF. Salt and ethyl acetate (20 ml) were added and the organic layer was dried (Na2SO4) and evaporated in vacuo to leave the title compound as a brown oil (0.015 g).

reactant | phenylmethyl[2-[5-[[(methylsulphonyl)amino]methyl]-1H-indol-3-yl]ethyl]carbamate | 0.02 g | C1(=CC=CC=C1)COC(NCCC1=CNC2=CC=C(C=C12)CNS(=O)(=O)C)=O | C20H23N3O4S
reactant | lithium aluminium hydride | 0.1 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
reactant | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | N-[[3-[2-(Methylamino)ethyl]-1H-indol-5-yl]methyl]methanesulphonamide | 0.015 g | CNCCC1=CNC2=CC=C(C=C12)CNS(=O)(=O)C | C13H19N3O2S
